US07087601B2
The mixture of 2-(3-{[tert-butyl-(dimethyl)silyl]oxy}-4-bromomethylphenyl)-1,3-benzoxazole (1.6 g, 3.8 mmol) and sodium cyanide (560 mg, 11.4 mmol) in DMF (10 mL) was stirred at 90° C. overnight. After cooling to rt, the mixture was diluted with EtOAc (100 mL), washed with H2O (2×50 mL), dried (MgSO4), filtered, and concentrated in vacuo to afford the desired [4-(1,3-benzoxazol-2-yl)-2-hydroxyphenyl]acetonitrile as yellow solid. 1H NMR(CD3OD, 300 MHz), δ10.6(s, 1H), 7.8(m, 2H), 7.7(m, 2H), 7.5(d, 1H), 7.4(m, 2H). MS (ESI) 251 (M+H)+.

reactant | 2-(3-{[tert-butyl-(dimethyl)silyl]oxy}-4-bromomethylphenyl)-1,3-benzoxazole | 3.8 mmol, 1.6 g | C(C)(C)(C)[Si](OC=1C=C(C=CC1CBr)C=1OC2=C(N1)C=CC=C2)(C)C | C20H24BrNO2Si
reactant | sodium cyanide | 11.4 mmol, 560 mg | [C-]#N.[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | [4-(1,3-benzoxazol-2-yl)-2-hydroxyphenyl]acetonitrile | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)CC#N)O | C15H10N2O2
